US08633173B2
2-(4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazin-1-yl)-ethanol was prepared from 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine (75.0 mg, 0.244 mmol) and 2-[4-(3-amino-phenyl)-piperazin-1-yl]-ethanol (60.0 mg, 0.271 mmol) with 2,2′-bis-dicyclohexylphosphanyl-biphenyl (33.0 mg, 0.0604 mmol) as the ligand in a manner analogous to Example 2d. Product isolated as a yellow foam (0.052 g, 43%). 1H NMR (400 MHz, CDCl3, δ, ppm): 8.49 (d, J=6.5 Hz, 1H), 8.26 (d, J=8.4 Hz, 2H), 8.08 (d, J=8.4 Hz, 2H), 7.66 (d, J=7.5 Hz, 1H), 7.45 (s, 1H), 7.23 (t, J=8.0 Hz, 1H), 7.02 (t, J=7.1 Hz, 1H), 6.96-6.92 (m, 1H), 6.87 (s, 1H), 6.62-6.58 (m, 1H), 3.70 (t, J=5.3 Hz, 2H), 3.30-3.26 (m, 4H), 3.11 (s, 3H), 3.74-2.70 (m, 4H), 2.64 (t, J=5.3 Hz, 2H). MS=493 (MH)+.

reactant | 2-chloro-8-(4-methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridine | 0.244 mmol, 75.0 mg | ClC1=NN2C(C(=CC=C2)C2=CC=C(C=C2)S(=O)(=O)C)=N1 | C13H10ClN3O2S
reactant | 2-[4-(3-amino-phenyl)-piperazin-1-yl]-ethanol | 0.271 mmol, 60.0 mg | NC=1C=C(C=CC1)N1CCN(CC1)CCO | C12H19N3O
reactant | 2,2′-bis-dicyclohexylphosphanyl-biphenyl | 0.0604 mmol, 33.0 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)P(C1CCCCC1)C1CCCCC1)C1CCCCC1 | C36H52P2
product | 2-(4-{3-[8-(4-Methanesulfonyl-phenyl)-[1,2,4]triazolo[1,5-a]pyridin-2-ylamino]-phenyl}-piperazin-1-yl)-ethanol | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(N2)NC=2C=C(C=CC2)N2CCN(CC2)CCO | C25H28N6O3S
